US07612075B2
1-(4-Amino-quinazolin-7-ylmethyl)-4-[(6-chloro-pyridin-3-yloxy)-acetyl]-3-(S)-ethoxymethyl-piperazin-2-one
The title compound is prepared as described in EXAMPLE 123, using 1-(4-aminoquinazoline-7-ylmethyl)-3-ethoxymethyl-piperazine-2-one, EXAMPLE 79 and, (6-chloro-pyridin-3-yloxy)-acetic acid, prepared similary to the procedure described in EXAMPLE 29. 1H NMR (d6-DMSO, 300 MHz) δ9.73 (bs, 2H), 8.81 (s, 1H), 8.37 (m, 1H), 8.10 (m, 1H), 7.61 (m, 2H), 7.40 (m, 2H), 4.98 (m, 2H), 4.65 (m, 2H), 4.50 (m, 1H), 3.91 (m, 1H), 3.75 (m, 1H), 3.59 (m, 2H), 3.31 (m, 2H), 1.07 (m, 3H). MS (ion spray), m/z, 485, 487 (M+H), (Cl pattern).

reactant | 1-(4-aminoquinazoline-7-ylmethyl)-3-ethoxymethyl-piperazine-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C(C(NCC1)COCC)=O | C16H21N5O2
reactant | (6-chloro-pyridin-3-yloxy)-acetic acid | ClC1=CC=C(C=N1)OCC(=O)O | C7H6ClNO3
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-[(6-chloro-pyridin-3-yloxy)-acetyl]-3-(S)-ethoxymethyl-piperazin-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)C(COC=1C=NC(=CC1)Cl)=O)COCC)=O | C23H25ClN6O4
